US05753595
An additional 2.1 grams of [2-(1-methoxy-1-methylethyl)-6-fluorobenzoxazol-7-yl]carboxylic acid of was prepared in the manner of Step B, Example 1, with 4.2 grams (17 mmole) of N-(3-chloro-4-fluorophenyl)-2-methoxy-2-methylpropionamide, 120 mL of tetrahydrofuran, 16 mL (40 mmole) of 2.5M n-butyllithium in hexanes, and 3.0 grams of solid carbon dioxide as reagents. The NMR spectrum was consistent with the proposed structure.

reactant | N-(3-chloro-4-fluorophenyl)-2-methoxy-2-methylpropionamide | 17 mmole, 4.2 grams | ClC=1C=C(C=CC1F)NC(C(C)(C)OC)=O | C11H13ClFNO2
reactant | n-butyllithium | 40 mmole, 2.5M, 16 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | [2-(1-methoxy-1-methylethyl)-6-fluorobenzoxazol-7-yl]carboxylic acid | 2.1 grams | COC(C)(C)C=1OC2=C(N1)C=CC(=C2C(=O)O)F | C12H12FNO4
